US05600047
2.3 ml of 1.5M pentene solution of t-butyllithum was dropwise added, at -78° C., to a solution 416 mg of (E)-3,4-dimethyl-1-iodo-1-pentene dissolved in 5 ml of diethyl ether. The reaction mixture was stirred at room temperature for 2 hours. Thereto was dropwise added a solution of 682 mg of 1-acetyl-4-(2-(3-(t-butyldimethylsilyloxy)-2-methylenebicyclo[3.1.0]hexane-1-yl)-2-methoxyethylidene)-2,3,3a,4,5,6,7,7a-octahydro-7a-methylindene dissolved in 10 ml of tetrahydrofuran. The mixture was stirred for 1 hour. Thereto was dropwise added 0.3 ml of methyl chloroformate. The mixture was stirred at room temperature overnight. The reaction mixture was mixed with an aqueous sodium hydrogencarbonate solution, followed by extraction with ethyl acetate. The extract was washed with an aqueous sodium hydrogencarbonate solution and concentrated under reduced pressure to obtain 1.04 g (2S,3E)-5,6-dimethyl-2-(4-(2-(3-(t-butyldimethylsilyloxy)-2-methylenebicyclo[3.1.0]hexane-1-yl)-2-methoxyethylidene)-2,3,3a,4,5,6,7,7a-octahydro-7a-methylinden-1-yl)-2-methoxycarbonyloxy-3-heptene having the follow property.

reactant | pentene | 1.5M, 2.3 ml | C=CCCC | C5H10
reactant | t-butyllithum | C(C)(C)(C)[Li]
reactant | (E)-3,4-dimethyl-1-iodo-1-pentene | 416 mg | CC(/C=C/I)C(C)C | C7H13I
reactant | 1-acetyl-4-(2-(3-(t-butyldimethylsilyloxy)-2-methylenebicyclo[3.1.0]hexane-1-yl)-2-methoxyethylidene)-2,3,3a,4,5,6,7,7a-octahydro-7a-methylindene | 682 mg | C(C)(=O)C1CCC2C(CCCC12C)=CC(OC)C12C(C(CC2C1)O[Si](C)(C)C(C)(C)C)=C | C28H46O3Si
reactant | methyl chloroformate | 0.3 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2S,3E)-5,6-dimethyl-2-(4-(2-(3-(t-butyldimethylsilyloxy)-2-methylenebicyclo[3.1.0]hexane-1-yl)-2-methoxyethylidene)-2,3,3a,4,5,6,7,7a-octahydro-7a-methylinden-1-yl)-2-methoxycarbonyloxy-3-heptene | 1.04 g | CC(/C=C/[C@](C)(OC(=O)OC)C1CCC2C(CCCC12C)=CC(OC)C12C(C(CC2C1)O[Si](C)(C)C(C)(C)C)=C)C(C)C | C37H62O5Si
